US05693651
(1) methyl 7-(methylphenylamino)methylquinoline-3-carboxylate
In a nitrogen atmosphere, N-methylaniline (383 mg, 3.57 mmol.) was dissolved in DMF (5 mL). Under chilling with ice, 60% sodium hydride (157 mg, 3.93 mmol.) was added to the resulting solution and the mixture was stirred at room temperature for 5 minutes. Under chilling with ice, to this was added dropwise methyl 7-bromomethylquinoline-3-carboxylate (1.0 g, 3.57 mmol.) in dry DMF (10 mL). The resulting mixture was stirred overnight at room temperature. The solvent was distilled off under reduced pressure, and the residue was extracted with chloroform after addition of water (20 mL). The organic portion was washed successively with water and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1), to give the desired compound as yellow crystalline powder (615 mg, yield: 56%).

reactant | N-methylaniline | 3.57 mmol, 383 mg | CNC1=CC=CC=C1 | C7H9N
reactant | sodium hydride | 3.93 mmol, 157 mg | [H-].[Na+]
reactant | methyl 7-bromomethylquinoline-3-carboxylate | 3.57 mmol, 1.0 g | BrCC1=CC=C2C=C(C=NC2=C1)C(=O)OC | C12H10BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 7-(methylphenylamino)methylquinoline-3-carboxylate | 615 mg, yield: 56% | CN(C1=CC=CC=C1)CC1=CC=C2C=C(C=NC2=C1)C(=O)OC | C19H18N2O2
